Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
BPH
 
Major Surgical or Invasive Procedure:
CYSTOURETHROSCOPY;WITH INCISION OR RESECTION OF ORIFICE OF 
BLADDER DIVERTICULUM,SINGLE OR MULTIPLE 
  ___ PROSTATECTOMY (INCLUDING CONTROL OF POSTOPERATIVE 
BLEEDING,VASECTOMY, MEATOTOMY, URETHRAL CALIBRATION ___ 
DILATION,AND INTERNAL URETHROTOMY);RETROPUBIC, SUBTOTAL 

 
History of Present Illness:
___ year old man with urinary
retention and large residuals who was found on ultrasound to 
have
a very large prostate > 100 cc in volume.  His post void
residuals have been very elevated, and he has been doing clean
intermittent catheterization for the last six weeks.  

 
Past Medical History:
ABNORMAL LIVER FUNCTION TESTS                                   
ALLERGY                                                         
EPILEPSY                                                        
PSORIASIS                                                       
RECTAL BLEEDING                                                 
BORDERLINE HYPERTENSION                                         
CORONARY ARTERY DISEASE 
 
Social History:
Country of Origin:  US                                          
Marital status:     Married, # years: ___                        
Name of             ___                                       
___:                                               
Children:           Yes: two girls (___)                 
Lives with:         ___ Children                  
Lives in:           House                                       
Work: ___
Multiple partners:  Past                                        
___ activity:    Present                                     
Sexual orientation: Female                                      
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      None                                        
Contraception       children conceived via IVF.                 
comments:                                                       
Tobacco use:        Former smoker                               
     Year Quit:     ___                                        
     Years Since    ___                                          
     Quit:                                                      
     # Packs/Day:    .5                                         
     # Years Smoked: 4                                          
     Pack Years:    2                                           
Alcohol use:        Past and Present                            
drinks per week:    ___                                         
Recreational drugs  Past                                        
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Recreational drugs  marijuana                                   
comments:                                                       
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities: He belongs to ___. He is losing 
                    weight (on purpose--20#, he is in the gym   
                    regularly 3x/week.                          
Diet:               Trying to work on portion control. He lost  
                    20#. Fruits and vegetables one serving per  
                    day.  Too much carbs.                       
Seat belt/vehicle   Always                                      
restraint use:                                                  
Bike helmet use:    Always  
 
Family History:
Mother   Living   ___                                            

Father   Living   ___  MYOCARDIAL                 Now up to 20   
                      INFARCTION                 stents with    
                                                 ___ put in    
                                                 ___ this past 
                                                 ___.          
                      HYPERTENSION               possibly       
                      HYPERCHOLESTEROLEMIA                      

MGM      Deceased ___  CONGESTIVE HEART                          
                      FAILURE                                   
                      HYPERTENSION                              

MGF      Deceased ___                                            

PGM      Deceased ___  ALCOHOL ABUSE                             

PGF      Deceased ___  ALZHEIMER'S DISEASE                       

Brother  Living   ___  HYPERCHOLESTEROLEMIA                      

Sister   Living   ___    
 
Physical Exam:
General: NAD, AOx3
Resp: non labored respirations
CV: RRR
GI: Abdomen soft, non tender and non distended, port sites CDI. 
GU: Foley draining clear yellow urine with CBI clamped. 
 
Pertinent Results:
___ 06:55AM BLOOD WBC-7.6 RBC-4.12* Hgb-12.6* Hct-37.9* 
MCV-92 MCH-30.6 MCHC-33.2 RDW-12.5 RDWSD-42.1 Plt ___
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-99 UreaN-17 Creat-0.9 Na-139 
K-4.2 Cl-102 HCO3-25 AnGap-12
___ 06:55AM BLOOD Calcium-8.5 Mg-1.___RIEF HOSPITAL COURSE

Mr. ___ was admitted to the Urology Service after undergoing 
robotic assisted laparoscopic simple prostatectomy for severe 
BPH. No concerning intra-operative events occurred; please see 
dictated operative note by ___, MD for full details.  
The patient received ___ antibiotic prophylaxis.  At 
the end of the procedure the patient was extubated and 
transported to the PACU for further recovery before being 
transferred to the floor.  He was transferred from the PACU in 
stable condition. On POD0, pain was well controlled on PCA, 
hydrated with intravenous fluids for urine output >30cc/hour, 
provided with pneumoboots and incentive spirometry for 
prophylaxis, and he ambulated once. On POD1, the patient was 
restarted on home medications, basic metabolic panel and 
complete blood count were checked, pain control was transitioned 
from PCA to oral analgesics, diet was advanced to a clears/toast 
and crackers diet for breakfast and lunch.  Diet was advanced to 
regular after lunch and with further ambulation, the JP drain 
was removed.  Foley catheter care and leg bag teaching was 
provided by nursing. The remainder of the hospital course was 
unremarkable. The patient was discharged in stable condition, 
eating well, ambulating independently, and with pain control on 
oral analgesics. On exam, incision was clean, dry, and intact, 
with no evidence of hematoma collection or infection. The 
patient was given explicit instructions to follow-up in one week 
with Dr. ___ NP for post-operative evaluation and 
trial of voiding.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Divalproex (EXTended Release) 500 mg PO BID 
2. LevETIRAcetam 1250 mg PO BID 
3. Clobetasol Propionate 0.05% Cream 1 Appl TP BID:PRN rash 
4. Atorvastatin 40 mg PO QPM 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
6. Aspirin 81 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 2 Doses 
take 7am and 7pm on date of void trial, foley removal 
RX *ciprofloxacin HCl 500 mg ONE tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg one capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
5.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg one tablet(s) by mouth q8hrs Disp #*20 
Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
  Reason for PRN duplicate override: this oxy will drop off
RX *oxycodone 5 mg ONE tablet(s) by mouth Q6hrs Disp #*5 Tablet 
Refills:*0 
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 40 mg PO QPM  
9.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID:PRN rash  
10.  Divalproex (EXTended Release) 500 mg PO BID  
11.  LevETIRAcetam 1250 mg PO BID  
12.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
13.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Benign prostatic hyperplasia with lower urinary tract symptoms 
Retention of urine, unspecified 
Diverticulum of bladder 

 
Discharge Condition:
-If you have fevers > ___, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

Fever greater than ___, Chills
Any other symptoms that concern you
Leg pain, Leg swelling, Leg redness
Shortness of breath, Chest pain
Difficulty urinating, Blood in urine, Foul smelling urine
Redness that is spreading
Pain not adequately relieved with medication
Drainage from wound, Opening of incision
Nausea and vomiting

 
Discharge Instructions:
-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-Resume your pre-admission medications except as noted

-You may take ibuprofen and the prescribed narcotic together for 
pain control. FIRST, use Tylenol and Ibuprofen.  Add the 
prescribed narcotic (examples: Oxycodone, Dilaudid, 
Hydromorphone) for break through pain that is >4 on the pain 
scale.

-The maximum dose of Tylenol (ACETAMINOPHEN) is about 3 grams 
(from ALL sources) PER DAY.

-Ibuprofen should always be taken with food. If you develop 
stomach pain or note black stool, stop the Ibuprofen.  Ibuprofen 
works best when taken “around the clock.”

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up. Generally about 
FOUR weeks. Light household chores are generally “ok”.  Do not 
vacuum. 

-No DRIVING for TWO WEEKS or until you are cleared by your 
Urologist

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener ___ a 
gentle laxative. These are  ___ medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain removed from your abdomen, bandage strips 
called “steristrips” have been applied to close the wound. Allow 
these bandage strips to fall off on their own ___ days).  
PLEASE REMOVE any remaining dressings w/ gauze within 2 days of 
discharge.  You may get the steristrips wet.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up for wound check and Foley removal. DO NOT allow 
anyone that is outside of the urology team remove your Foley for 
any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-an ointment like bacitracin/Neosporin or "triple antibiotic" 
ointment is recommended for comfort at urethral meatus where the 
foley catheter inserts. Apply the ointment for comfort ___ x 
daily if needed.

-Take prescribed antibiotic for Foley catheter removal as 
directed
 
Followup Instructions:
___